US04721791
3-Methyl-5-(trichlorovinyl)benzaldehyde
To a cold (-60° C.) solution of oxalyl chloride (3.17 ml) in 65 ml of dry methylene chloride (CH2Cl2), dimethyl sulfoxide (DMSO) (5.37 ml) in 16 ml of CH2Cl2 was added followed by the addition of 7.86 g of 3-methyl-5-(trichlorovinyl)benzyl alcohol in 16 ml of CH2Cl2, to this cold mixture, triethylamine (22 ml) was slowly added. The reaction mixture was permitted to warm to room temperature over 1.5 hours. The reaction mixture was then added to 200 ml of water and the layers separated. The organic layer was repeatedly washed with water and then dried with magnesium sulfate. Concentration afforded 8.16 g of an oil which was chromatographed on silica gel (60:40 hexane:CH2Cl2) to give 7.82 g of pure aldehyde, m.p. 42°-43° C.

reactant | oxalyl chloride | 3.17 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-methyl-5-(trichlorovinyl)benzyl alcohol | 7.86 g | CC=1C=C(CO)C=C(C1)C(=C(Cl)Cl)Cl | C10H9Cl3O
reactant | triethylamine | 22 ml | C(C)N(CC)CC | C6H15N
reactant | water | 200 ml | O | H2O
solvent | methylene chloride | 65 ml | C(Cl)Cl | CH2Cl2
solvent | dimethyl sulfoxide | 5.37 ml | CS(=O)C | C2H6OS
solvent | CH2Cl2 | 16 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 16 ml | C(Cl)Cl | CH2Cl2
product | 3-Methyl-5-(trichlorovinyl)benzaldehyde | 8.16 g | CC=1C=C(C=O)C=C(C1)C(=C(Cl)Cl)Cl | C10H7Cl3O
